US04360375
Allyl 4-[4-(2-chloro-4-bromophenoxy) phenoxy]2-pentenoate
In a mixture of 70 ml of benzene, 2.1 g (0.030 mole) of allyl alcohol and 2.6 g (0.033 mole) of pyridine, 12.5 g (0.03 mole) of [4-(2-chloro-4-bromophenoxy) phenoxy]2-pentenoic chloride obtained in the previous Preparation was added to react them at room temperature. Water was added to the reaction mixture and the benzene phase was washed with water and dehydrated over anhydrous sodium sulfate and benzene was distilled off to obtain 11.5 g of an orange viscous liquid having ND20 :1.5757 (yield 87.3%).

reactant | allyl alcohol | 0.030 mole, 2.1 g | C(C=C)O | C3H6O
reactant | pyridine | 0.033 mole, 2.6 g | N1=CC=CC=C1 | C5H5N
reactant | [4-(2-chloro-4-bromophenoxy) phenoxy]2-pentenoic chloride | 0.03 mole, 12.5 g | ClC1=C(OC2=CC=C(OC(C(=O)Cl)=CCC)C=C2)C=CC(=C1)Br | C17H13BrCl2O3
reactant | Water | O | H2O
solvent | benzene | 70 ml | C1=CC=CC=C1 | C6H6
product | Allyl 4-[4-(2-chloro-4-bromophenoxy) phenoxy]2-pentenoate | 11.5 g | ClC1=C(OC2=CC=C(OC(C=CC(=O)OCC=C)C)C=C2)C=CC(=C1)Br | C20H18BrClO4
